US06262069B1
Ethyl 1-aminoisoquinoline-7-carboxylate hydrochloride
To a suspension of 1-aminoisoquinoline-7-carboxylic acid TFA salt (6 g, 20 mmol) in anhydrous ethanol (150 mL) was added thionyl chloride (7.7 mL, 10 eq.) slowly at 0° C. and the reaction mixture was then refluxed for 5 hours. The volatiles were removed under vacuo and the resultant solid treated with diethyl ether and filtered to give the title compound as a brown solid.

reactant | 1-aminoisoquinoline-7-carboxylic acid TFA salt | 20 mmol, 6 g | OC(=O)C(F)(F)F.NC1=NC=CC2=CC=C(C=C12)C(=O)O
reactant | thionyl chloride | 7.7 mL, 10 eq. | S(=O)(Cl)Cl | Cl2OS
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | Ethyl 1-aminoisoquinoline-7-carboxylate hydrochloride | Cl.NC1=NC=CC2=CC=C(C=C12)C(=O)OCC | InChI=1S/C12H12N2O2.ClH/c1-2-16-12(15)9-4-3-8-5-6-14-11(13)10(8)7-9;/h3-7H,2H2,1H3,(H2,13,14);1H
